US05482967
To a solution of 6-chloro-1,2,3,4-tetrahydro-4-methyl-2-oxo-4-phenylquinolin (6.0 g) in DMF (50 ml) was added sodium hydride (60% in oil) (0.98 g), followed by stirring at room temperature for 30 minutes. After this mixture was cooled to 0° C., methyl iodide (3 ml) was added, followed by stirring at room temperature for further 30 minutes. After dilute hydrochloric acid was added, the mixture was extracted with ethyl acetate. The extract was washed with water and then dried, after which the solvent was distilled off, to yield 6-chloro-1,2,3,4-tetrahydro-1,4-dimethyl-2-oxo-4-phenylquinolin as colorless crystals (5.58 g).

reactant | 6-chloro-1,2,3,4-tetrahydro-4-methyl-2-oxo-4-phenylquinolin | 6.0 g | ClC=1C=C2C(CC(NC2=CC1)=O)(C1=CC=CC=C1)C | C16H14ClNO
reactant | sodium hydride | 0.98 g | [H-].[Na+]
reactant | methyl iodide | 3 ml | CI | CH3I
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 6-chloro-1,2,3,4-tetrahydro-1,4-dimethyl-2-oxo-4-phenylquinolin | 5.58 g | ClC=1C=C2C(CC(N(C2=CC1)C)=O)(C1=CC=CC=C1)C | C17H16ClNO
